US04673746
A solution of 3.5 g of ethyl 2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}pentanoate, 30 ml 15% sodium hydroxide and 30 ml methanol is heated under reflux for 1.5 hr. The reaction mixture is poured into ice/dil hydrochloric acid with stirring. The precipitate is collected, washed with water and dried in vacuo. Recrystallization from toluene/acetonitrile affords 2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}pentanoic acid, mp 170° C.

reactant | ethyl 2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}pentanoate | 3.5 g | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)OC(C(=O)OCC)CCC | C20H20ClNO4
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}pentanoic acid | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)OC(C(=O)O)CCC | C18H16ClNO4
